US07371750B2
A mixture of 7-methanesulfonyl-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (148 mg, 0.39 mmol) and 3-dimethylaminoaniline (530 mg, 3.9 mmol) is stirred for 1 hour at 130° C. The mixture is cooled down to room temperature and suspended in methanol. The precipitate is collected and washed with methanol to give 7-(3-dimethylamino-phenylamino)-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (98 mg, 58%) as a yellow solid.

reactant | 7-methanesulfonyl-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.39 mmol, 148 mg | CS(=O)(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC(=C2)[N+](=O)[O-])C)=O)C | C15H15N5O5S
reactant | 3-dimethylaminoaniline | 3.9 mmol, 530 mg | CN(C=1C=C(N)C=CC1)C | C8H12N2
solvent | methanol | CO | CH4O
product | 7-(3-dimethylamino-phenylamino)-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 98 mg, 58% | CN(C=1C=C(C=CC1)NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC(=C2)[N+](=O)[O-])C)=O)C)C | C22H23N7O3
